US07368578B2
To a mixture of 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile (10.0 g) and toluene (200 mL) was added thionyl chloride (3.74 g), and the mixture was heated under reflux for 1 hr. The reaction mixture was concentrated and ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile (10.3 g, yield 98%) as colorless crystals. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 150-151° C.

reactant | 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 10.0 g | OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C20H18N2O4
reactant | thionyl chloride | 3.74 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 10.3 g, yield 98% | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C20H17ClN2O3
